US04783467
Preparation 42 2-Amino-3-methyl-5-(2-hydroxypyrid-5-yl)benzaldehyde.
2-Amino-5-(2-methoxypyrid-5-yl)-3-methylbenzaldehyde (0.92g) was added to a stirred solution of hydrobromic acid (3 cm3 of a 60% w/w aqueous solution) in absolute ethanol (100 cm3) under nitrogen and the mixture was heated under reflux for 2 hours. The cooled solution was evaporated in vacuo, and the residue partitioned between 10% sodium carbonate solution (30 cm3) and dichloromethane (50 cm3). The organic phase was dried (MgSO4) and evaporated in vacuo to give a solid residue which was chromatographed in silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 10:1. Combination and evaporation of appropriate fractions followed by recrystallisation from ethyl acetate afforded the title compound, m.p. 231°-234° (0.26 g).

reactant | 2-Amino-5-(2-methoxypyrid-5-yl)-3-methylbenzaldehyde | 0.92g | NC1=C(C=O)C=C(C=C1C)C=1C=CC(=NC1)OC | C14H14N2O2
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | 2-Amino-3-methyl-5-(2-hydroxypyrid-5-yl)benzaldehyde | NC1=C(C=O)C=C(C=C1C)C=1C=CC(=NC1)O | C13H12N2O2
